US04734367
The yeast Candida humicola NRRL Y-1266 was cultivated on an agar slant with 7.5 ml of medium 1 consisting of 1 wt.% of yeast extract, 1 wt.% of peptone, 2 wt.% of glucose, 1.6 wt.% of agar and 94.4 wt.% of distilled water. After incubation at 30° C. for 3 days the batch was treated with 9 ml of 0.9% (wt./vol.) sodium chloride solution and the cells were suspended. Subsequently, a shaking flask containing 100 ml of medium 1 without the addition of agar (i.e. a medium consisting of 1 wt.% of yeast extract, 1 wt.% of peptone, 2 wt.% of glucose and 96 wt.% of distilled water) was inoculated with 1 ml of the suspension obtained. After an incubation period of 3 days while shaking at 30° C. the cells were centrifuged off and suspended in 100 ml of 5% (wt./vol.) of glucose solution. The suspension obtained was treated with 0.1 g of ethyl α-formylpropionate and incubated further at 30° C. while shaking. After 5 hours the batch was extracted with ethyl acetate, there being obtained ethyl (R)-(-)-3-hydroxy-isobutyrate in an optical purity of 95.2% ee.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl α-formylpropionate | 0.1 g | C(=O)C(C(=O)OCC)C | C6H10O3
product | ethyl (R)-(-)-3-hydroxy-isobutyrate | OC[C@H](C(=O)OCC)C | C6H12O3
